US05175166
1-Methyl-5-methoxycarbonyl-1,4,5,6-tetrahydropyrimidine
1-Methyl-3-triphenylmethyl-5-methoxycarbonyl-1,4,5,6-tetrahydropyrimidinium iodide (395 mg, 0.75 mmol) is dissolved in TFA (1 ml) with stirring in a stoppered round bottom flask at room temperature. After 18 hours stirring the excess TFA is evaporated in vacuo, and the dark residue triturated with ether. The ether is decanted leaving an oily residue that is taken up in ice cold sat. Na2CO3 and then extracted with chloroform. After drying and evaporation the chloroform fraction gave the free base which is recrystallized (chloroform/hexane) to yellow crystals 88 mg (74%) identified by 300 MHz nmr, ms m/z=156.

reactant | 1-Methyl-3-triphenylmethyl-5-methoxycarbonyl-1,4,5,6-tetrahydropyrimidinium iodide | 0.75 mmol, 395 mg | [I-].C[NH+]1CN(CC(C1)C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-Methyl-5-methoxycarbonyl-1,4,5,6-tetrahydropyrimidine | CN1C=NCC(C1)C(=O)OC | C7H12N2O2
